US09193693B2
Step 2. (S)-methyl 3-(2-methylpyrrolidin-1-yl)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate
Into a 250-mL round-bottom flask, was placed a solution of (S)-methyl 1-benzyl-3-(2-methylpyrrolidin-1-yl)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate (2.2 g, 5.84 mmol, 1.00 equiv) in dichloromethane (100 mL). This was followed by the addition of AlCl3 (7.7 g, 58.33 mmol, 10.00 equiv) in several batches. The resulting solution was stirred overnight at 30° C. in an oil bath. The resulting solution was concentrated under vacuum. The residue was applied onto a silica gel column with dichloromethane/methanol (1:100). This resulted in 900 mg (53%) of (S)-methyl 3-(2-methylpyrrolidin-1-yl)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate as a brown solid.

reactant | (S)-methyl 1-benzyl-3-(2-methylpyrrolidin-1-yl)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 5.84 mmol, 2.2 g, 1.00 equiv | C(C1=CC=CC=C1)N1C(C(=NC2=CC(=CC=C12)C(=O)OC)N1[C@H](CCC1)C)=O | C22H23N3O3
reactant | AlCl3 | 58.33 mmol, 7.7 g, 10.00 equiv | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (S)-methyl 3-(2-methylpyrrolidin-1-yl)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | C[C@@H]1N(CCC1)C=1C(NC2=CC=C(C=C2N1)C(=O)OC)=O | C15H17N3O3
